US07897623B2
To a solution of methyl 4-chloropyridine-2-carboxylate HCl salt Method A2, Step 2; 1.01 g, 4.86 mmol) in THF (20 mL) was added 4-(2-aminoethyl)morpholine (2.55 mL, 19.4 mmol) dropwise and the resulting solution was heated at the reflux temp. for 20 h, cooled to room temp., and treated with water (50 mL). The resulting mixture was extracted with EtOAc (50 mL). The organic layer was dried (MgSO4) and concentrated under reduced pressure to afford 4-chloro-2-(N-(2-morpholin-4-ylethyl) carbamoyl)pyridine as a yellow oil (1.25 g, 95%): TLC (10% MeOH/90% EtOAc) Rf 0.50.

reactant | methyl 4-chloropyridine-2-carboxylate HCl salt | Cl.ClC1=CC(=NC=C1)C(=O)OC
reactant | 4-(2-aminoethyl)morpholine | 19.4 mmol, 2.55 mL | NCCN1CCOCC1 | C6H14N2O
reactant | water | 50 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-chloro-2-(N-(2-morpholin-4-ylethyl) carbamoyl)pyridine | 1.25 g, 95% | ClC1=CC(=NC=C1)C(NCCN1CCOCC1)=O | C12H16ClN3O2
